US08039460B2
Step D: Benzyl 4-[2-((3-bromopyridin-2-yl) {[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate
Sodium hydride (60% dispersion in oil; 0.20 g, 5.0 mmol) was slowly added to a solution of benzyl 4-{2-[(3-bromopyridin-2-yl)amino]-2-oxoethyl}-3,6-dihydropyridine-1(2H)-carboxylate (1.91 g, 4.43 mmol) in tetrahydrofuran (15 mL) at 0° C. After 30 min, [2-(chloromethoxy)ethyl](trimethyl)silane (0.86 mL, 4.88 mmol) was added. After 4 h, additional sodium hydride (60% dispersion in oil; 0.10 g, 2.5 mmol) was added, followed by [2-(chloromethoxy)ethyl](trimethyl)silane (0.43 mL, 2.44 mmol). After 18 h, the reaction mixture was quenched with saturated ammonium chloride. The mixture was extracted with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (60% hexanes/ethyl acetate→30% hexanes/ethyl acetate) gave the title compound (1.51 g). MS 560.1 (M).

reactant | Sodium hydride | 5.0 mmol, 0.20 g | [H-].[Na+]
reactant | benzyl 4-{2-[(3-bromopyridin-2-yl)amino]-2-oxoethyl}-3,6-dihydropyridine-1(2H)-carboxylate | 4.43 mmol, 1.91 g | BrC=1C(=NC=CC1)NC(CC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C20H20BrN3O3
reactant | [2-(chloromethoxy)ethyl](trimethyl)silane | 4.88 mmol, 0.86 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | sodium hydride | 2.5 mmol, 0.10 g | [H-].[Na+]
reactant | [2-(chloromethoxy)ethyl](trimethyl)silane | 2.44 mmol, 0.43 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Benzyl 4-[2-((3-bromopyridin-2-yl) {[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate | 1.51 g | BrC=1C(=NC=CC1)N(C(CC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)COCC[Si](C)(C)C | C26H34BrN3O4Si
